Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
All drug allergies previously recorded have been deleted
 
Attending: ___.
 
Chief Complaint:
Elbow pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/obesity s/p gastric bypass, with R elbow pain after 
fall in ___ 3 days ago. He slipped on water and fell on R 
elbow and one hour later noticed that his elbow was bleeding. He 
washed the wound with alcohol and put triple antibiotics on it. 
He since drove here from ___ and his arm began to be more 
and more painful. He is able to move his arm but it elicits a 
lot of pain. He denies any fevers. Of note he has had cellulitis 
in both his left shoulder ___ yrs ago prior to receiving hardware 
in his shoulder. He also has had repeated infections in his left 
lower extremity where he has a screw and plate.
.
In the ED his VS were 95.7 139/61 87 22 99% RA. He had a WBC of 
12.3. He received one dose of 1gm vancomycin in the ED. He 
received 2 tabs of vicodin without effect and then received 4mg 
IV morphine which relieved the pain for approximately one hour. 
He also received a tetanus shot.
.
Currently, he has ___ pain and is requesting pain medications. 
No chills. Is otherwise feeling well.
.
ROS: + for dizziness when looking up 3 times in last month. 
Passed out in bed x1 with no other cardiac or seizure like 
symptoms. Denies fever, chills, vision changes, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, dysuria, hematuria. 
 
Past Medical History:
___ yrs ago cellulitis of right shoulder, then later had right 
shoulder surgery and now with hardware.
Left ankle surgery s/p MV accident with multiple LLE infections 
including osteomyelitis.
Plan for L shoulder surgery this ___ for partial rotator cuff 
tear and for bilateral knee replacements later this yr
Chronic Lower back pain with known ruptured L4-5 disk
Peptic ulcer disease
GERD
Hyperlipidemia
Obesity
Open Roux-en-Y Gastric bypass with cholecystectomy and G-tube 
placement ___. s/p mesh for abdominal closure. No current 
g-tube.

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
On discharge
GENERAL: pleasant, well appearing in NAD
HEENT: Normocephalic, atraumatic. No scleral icterus. EOMI. MMM. 
OP clear.
CARDIAC: Distant, RRR. Normal S1, S2. No m/r/g
LUNGS: CTAB, good air movement bilaterally.
ABDOMEN: + midline scars. NABS. Obese, +bs, soft, NTND. No HSM
UE: + erythema around elbow, warm, central laceration, borders 
drawn and receding on some edges but extends slightly beyond 
borders in some areas Has active ROM and is less painful than 
yesterday.
___: +erythematous stasis dermatitis bilaterally in ___, non warm, 
+ scar on left lower shin, no pitting edema or calf pain, 2+ DP 
pulses
NEURO: Alert. Appropriate. EOMI.
PSYCH: Listens and responds to questions appropriately, 
pleasant.
. 
 
Pertinent Results:
Labs:
___ 01:15PM BLOOD WBC-12.3* RBC-4.85 Hgb-14.4 Hct-41.2 
MCV-85 MCH-29.8 MCHC-35.0 RDW-13.9 Plt ___
___ 01:15PM BLOOD Neuts-58.1 ___ Monos-7.8 Eos-3.9 
Baso-0.6
___ 05:20AM BLOOD WBC-8.9 RBC-4.10* Hgb-12.4* Hct-34.6* 
MCV-85 MCH-30.1 MCHC-35.7* RDW-13.9 Plt ___
___ 01:15PM BLOOD Glucose-102 UreaN-13 Creat-1.0 Na-135 
K-5.7* Cl-100 HCO3-25 AnGap-16
___ 05:20AM BLOOD Glucose-104 UreaN-14 Creat-0.9 Na-141 
K-4.2 Cl-104 HCO3-27 AnGap-14
___ 01:30PM BLOOD Lactate-1.5
.
___ x-ray R elbow:
FINDINGS: There is a linear longitudinal lucency seen along the 
radial head
on the oblique views only with no associated abnormal joint 
effusions of
uncertain clinical significance. No dislocation, or degenerative 
change is
detected. No lytic or sclerotic lesions are identified. No soft 
tissue
calcifications or radiopaque foreign bodies are seen.
. 
IMPRESSION: Linear longitudinal lucency along the radial head 
with no
associated joint effusion of uncertain clinical significance. 
Subtle
underlying fracture cannot be excluded. Recommend clinical 
correlation and
follow- up imaging can be obtained as indicated.
.
CT RUE: Final read pending. Study suboptimal due to patient's 
body habitus and does not fit well into CT scanner.  No clear 
evidence of fracture but cannot be ruled out. No effusion 
present.

 
Brief Hospital Course:
The patient is a ___ yo male with history of Roux-en-Y Gastric 
bypass and multiple infections of left lower extremity and right 
shoulder who presented with a right arm cellulitis s/p a fall 
and laceration.
.
His cellulitis was treated with IV vancomycin while in the 
hospital. His cellulitis receded compared to a border drawn in 
some areas and slightly extended beyond the borders in one area. 
 Over all his cellulitis looked much improved overnight and he 
had less pain when moving his arm.  His WBC was 12.3 on 
admission and within the normal range on discharge.  The patient 
stated that all his previous episodes of cellulitis have been 
treated with cephalexin.  He was discharged on a 10 day course 
of cephalexin 500mg PO qid.  He was also given 4 oxycodone 5mg 
pills to take for pain and instructed not to drive while on the 
oxycodone.  He was also discharged on the tylenol her takes for 
his OA and back pain.
.
A elbow arm x-ray was done which showed a linear longitudinal 
lucency along the radial head with no associated joint effusion. 
 An underlying fracture could not be excluded. A CT scan of the 
upper extremity without contrast was done but the results were 
suboptimal as the patient's body habitus limited the quality of 
the study.  The final read is still pending but on wet read 
there was no fracture or effusion.  However, the possibility of 
fracture could not be excluded.  The patient was told that if he 
continued to have pain in 5 to 7 days he should call his PCP and 
arrange for a repeat x-ray to look for fracture.
.
He had a previous roux-en-Y Gastric bypass surgery and was 
continued on his MVI, calcium, and vit D while in the hospital.
 
Medications on Admission:
ACETAMINOPHEN [TYLENOL EXTRA STRENGTH] - (Prescribed by Other
Provider) - 500 mg Tablet - two Tablet(s) by mouth four times a
day for back pain
CALCIUM CITRATE-VITAMIN D3 [CITRACAL + D] - (OTC) - 600 mg-400
unit Tablet - Tablet(s) by mouth BID
MULTIVITAMINS WITH MINERALS - (OTC) - Tablet - 1 Tablet(s) by
mouth twice a day Recommended twice daily for RNYGB
Dunactive 
 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO four times 
a day as needed for pain: do not exceed 4 grams in 24 hrs.  
2. calcium citrate- vitammin D3 600mg-400unit tablet by mouth 
BID
3. Multivitamin Tablet Sig: One (1) Tablet PO twice a day: 
multivitamin with mineral.  
4. Cephalexin 500 mg Tablet Sig: One (1) Tablet PO four times a 
day for 10 days.
Disp:*40 Tablet(s)* Refills:*0*
5. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO qhs:prn as 
needed for pain for 4 days. Disp:*4 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) Left arm cellulitis

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted to the hospital because of pain and swelling 
of your right elbow which was felt to be due to a skin 
infection, cellulitis. You were treated overnight with 
intravenous antibiotics and pain medication. On discharge you 
were switched to an oral antibiotic called cephalexin. It is 
important that you complete the full course of antibiotics.  You 
are being discharged on oxycodone for pain but you cannot drive 
when taking this medication because it makes you sleepy.  We did 
an x-ray of your arm and it is unclear if you had a fracture- 
fractures do not always show up on x-ray so soon after the 
fracture. We did a CT scan on your elbow and as far as we could 
see there was no fracture- however this study was somewhat 
limited by your body size.  If you have continued pain in ___ 
days please call your PCP and getting ___ follow up x-ray to look 
for fracture.
.
No other changes were made to your medications. You should 
continue to take all medications as prescribed and keep all 
doctor's appointments.
.
If you experience worsening pain, spreading of the redness on 
your arm, fever, chills, chest pain, shortness of breath, joint 
pain, or if you feel worse in any way, seek immediate medical 
attention. 
 
Followup Instructions:
___